US07888364B2
4 g of 2-chloro-4-fluorobenzonitrile was used in Procedure Q with 2-mercaptoethanol to afford 2-chloro-4-(2-hydroxyethylthio)benzonitrile. 1 g of 2-chloro-4-(2-hydroxyethylthio)benzonitrile was reacted via Procedure T to give 2-chloro-4-(2-hydroxyethylthio)benzoic acid. 1 g of 2-chloro-4-(2-hydroxyethylthio)benzoic acid was reacted via Procedure R to yield 2-chloro-4-(2-hydroxyethylsulfonyl)benzoic acid. 50 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(2-hydroxyethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxyethylsulfonyl)benzamide. MS (Q1) 451.0(M)+.

reactant | 2-chloro-4-fluorobenzonitrile | 4 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | 2-mercaptoethanol | SCCO | C2H6OS
product | 2-chloro-4-(2-hydroxyethylthio)benzonitrile | ClC1=C(C#N)C=CC(=C1)SCCO | C9H8ClNOS
